US07674807B2
4-Iodo-1-(3-methyl-4-nitrophenyl)-1H-pyrazole (1.98 g), copper powder (1.14 g), iodopentafluoroethane (8.85 g) and DMSO (9 ml) were set in an autoclave and heated and stirred for 8 hours, maintaining the inside temperature of 100° C. After finishing the reaction, the reaction mixture was poured into ice water and an insoluble matter was filtered with Celite, and then, it was extracted with ethyl acetate. The extracted solution was washed with water and dried with anhydrous sodium sulfate. After distilling off the solvent, the obtained residue was purified by silica gel column chromatography to obtain 1-(3-methyl-4-nitrophenyl)-4-pentafluoroethyl-1H-pyrazole (0.72 g).

reactant | 4-Iodo-1-(3-methyl-4-nitrophenyl)-1H-pyrazole | 1.98 g | IC=1C=NN(C1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C10H8IN3O2
reactant | iodopentafluoroethane | 8.85 g | IC(C(F)(F)F)(F)F | C2F5I
catalyst | copper | 1.14 g | [Cu] | Cu
solvent | DMSO | 9 ml | CS(=O)C | C2H6OS
product | 1-(3-methyl-4-nitrophenyl)-4-pentafluoroethyl-1H-pyrazole | 0.72 g | CC=1C=C(C=CC1[N+](=O)[O-])N1N=CC(=C1)C(C(F)(F)F)(F)F | C12H8F5N3O2
